US06416746B1
a) 2-Cyano-N-prop-2-ynyl-acetamide
A mixture of 15.4 ml (240 mmol) of propargyl amine and 17.1 ml (160 mmol) of ethyl cyano acetate was heated for 7 hours to 40° C. in a reaction flask. The crystalline material formed was heated for another 17 hours to 70° C. Then, the cooled reddish product was dried at high vacuum to yield 18.4 g (94%) of a red powder, m.p. 100-103° C.

reactant | propargyl amine | 240 mmol, 15.4 ml | C(C#C)N | C3H5N
reactant | ethyl cyano acetate | 160 mmol, 17.1 ml | CCOC(=O)CC#N | C5H7NO2
product | 2-Cyano-N-prop-2-ynyl-acetamide | 18.4 g, 94% | C(#N)CC(=O)NCC#C | C6H6N2O
